US08895596B2
Step B Methyl 3-hydroxycyclohexanecarboxylate.
3-oxo-1-cyclohexanecarboxylic acid methyl ester (1.1 g, 7.04 mmol) was dissolved in methanol (25 ml) and cooled to 0° C. under N2. Sodium borohydride (0.550 g, 14.54 mmol) was added in portions and the resulting solution stirred at 0° C. for 2 h. The solution was then diluted by the dropwise addition of water, followed by EtOAc (100 mL). The aqueous phase was separated and extracted with EtOAc (2×50 ml). The combined organic layers were washed with brine, dried over sodium sulphate, and concentrated in vacuo to give the title compound. TLC: 40% EtOAc/hexanes, high Rf: 0.4, low Rf: 0.3.

reactant | 3-oxo-1-cyclohexanecarboxylic acid methyl ester | 7.04 mmol, 1.1 g | COC(=O)C1CC(CCC1)=O | C8H12O3
reactant | Sodium borohydride | 14.54 mmol, 0.550 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | methanol | 25 ml | CO | CH4O
product | Methyl 3-hydroxycyclohexanecarboxylate | OC1CC(CCC1)C(=O)OC | C8H14O3
